US05354866
5-(p-Nitrophenoxycarbonyloxymethyl)isoxazole
A 631 mg (2.65 mmol) sample of p-nitrophenoxycarbonylchloride in 2 mL of methylene chloride was added to a solution of 310 mg (3.13 mmol) of 5-hydroxymethyisoxazole and 0.344 mL of 4-methylmorpholine in 2 mL of methylene chloride cooled in an ice bath. The solution was stirred for 4 hours. The mixture was diluted with methylene chloride, which was washed with water, dried and concentrated. The crude product was chromatographed on silica gel, eluting with 2% ethyl acetate in methylene chloride. The solvent was removed and the product dried to afford 0.473 g of the title compound, which was taken directly to the next step.

reactant | p-nitrophenoxycarbonylchloride | [N+](=O)([O-])C1=CC=C(OC(=O)Cl)C=C1 | C7H4ClNO4
reactant | 5-hydroxymethyisoxazole | 3.13 mmol, 310 mg | OCC1=CC=NO1 | C4H5NO2
reactant | 4-methylmorpholine | 0.344 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(p-Nitrophenoxycarbonyloxymethyl)isoxazole | 0.473 g | [N+](=O)([O-])C1=CC=C(OC(=O)OCC2=CC=NO2)C=C1 | C11H8N2O6
